US09428490B2
1-Benzhydryl-3-hydroxyazetidine-3-carbonitrile (10.5 g, 39.7 mmol) was dissolved in DCM and cooled to −78° C. DAST (12.80 g, 79.45 mmol) was slowly added and the reaction mixture was allowed to warm to rt where it was further stirred for 5 h. Reaction mixture was cooled to 0° C. and transferred into 500 mL NaHCO3 solution and extracted with (100 mL×3) DCM. Combined organic layers were washed with brine, dried over Na2SO4, and concentrated under reduced pressure to obtain 15.0 g of crude product, which was purified by chromatography to obtain 6.0 g of 1-benzhydryl-3-fluoroazetidine-3-carbonitrile. (57.14% yield). 1H NMR (400 MHz, CDCl3, ppm) δ=7.6-7.1 (m, 10H); 4.46 (s, 1H); 3.9-3.6 (m, 2H); 3.5-3.2 (m, 2H).

reactant | 1-Benzhydryl-3-hydroxyazetidine-3-carbonitrile | 39.7 mmol, 10.5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)(C#N)O | C17H16N2O
reactant | DAST | 79.45 mmol, 12.80 g | CCN(CC)S(F)(F)F | C4H10F3NS
reactant | NaHCO3 | 500 mL | C(=O)(O)[O-].[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1-benzhydryl-3-fluoroazetidine-3-carbonitrile | 6.0 g, 57.14% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)(C#N)F | C17H15FN2
